US04935413
To beta-chloropropionyl isocyanate (13.3 g; 100 mmol) in dichloroethane (20 g), a solution of t-butanol (7.4 g; 100 mmol) in dichloroethane (20 g) was dropwise added under ice-cooling in 5 minutes, whereby t-butyl beta-chloropropionylcarbamate was produced. Triethylamine (9.8 g; 100 mmol) was added to the reaction mixture, and the resultant mixture was stirred for 60 minutes. Precipitated salts were eliminated by filtration, and the filtrate was concentrated under reduced pressure to give t-butyl acryloylcarbamate as crude crystals, which were recrystallized from chloroform to give colorless needles. M.P., 131°-132° C.

reactant | beta-chloropropionyl isocyanate | 100 mmol, 13.3 g | ClCCC(=O)N=C=O | C4H4ClNO2
reactant | t-butanol | 100 mmol, 7.4 g | C(C)(C)(C)O | C4H10O
solvent | dichloroethane | 20 g | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 g | ClC(C)Cl | C2H4Cl2
product | t-butyl beta-chloropropionylcarbamate | ClCCC(=O)NC(OC(C)(C)C)=O | C8H14ClNO3
